Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Preservative / Aspirin / Enoxaparin / Sulfite / Bacitracin / 
Aleve / soybean
 
Attending: ___
 
Chief Complaint:
Planned admission for medication taper
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
CC: planned admission for medication change

HPI:
Ms. ___ is a ___ with history of focal epilepsy with impaired
awareness on lamotrigine 50mg QAM and 75mg QPM, directly 
admitted
for medication adjustment. 

History (per ___ clinic note and patient):
Patient had first seizure in ___, described as "amnesia" and
"phasing out" after significant emotional stressor of husband
asking for divorce. Five days later, patient had another seizure
with lip smacking and staring with impaired awareness. Patient
was started on dilantin at that time, which was later changed to
tegretol. When patient moved from ___ to ___ about ___
years ago, she was changed to lamotrigine 50mg BID. 

Patient's dose was changed from 50mg BID, to 25mg QAM/50mg QPM,
and then in ___ back to 50mg BID. During these dose changes,
the patient's seizures remained consistent at 1-2/year, 
occurring
between ___, with lip smacking and impaired awareness. She is
unaware of these episodes, but her husband notices. Episodes
always occur after emotional stressors. Other seizures events
that the patient believes were distinct from her usual episodes
include: her first seizure in the 1990s; "shaking" aware seizure
in ___ in the setting of Lyme disease; "shaking" seizure in
___ in the setting of high fever; and "stiff, clenched 
teeth"
seizure in ___ (detailed below). Her last EEG was in ___,
with left temporal lobe seizure associated with lip smacking and
hand automatisms.

Patient's lamotrigine dose was increased to 175mg daily in
___, and she was also switched to a different generic 
version
of lamotrigine (Teva lamotrigine tablets were discontinued). She
felt that her side effects worsened significantly with this
change, with stiff neck, headache, depressed mood, increased
aggression, ataxia, blurry vision, and worsening of her baseline
tinnitus. She had a seizure in ___ (her most recent seizure)
with stiffness, clenched teeth, occurring at 4AM. Her 
lamotrigine
level was checked on ___ and was 4.1 (nl 4.0-18.0). Her dose
has since been lowered to 75mg BID and then to 125mg daily (50mg
QAM/75mg QPM). 

Of note, patient has had "twitches" of muscles in fingers, arms,
and legs since last ___. They are not bothersome, occur 
daily,
often while she is at rest ("playing solitaire"), sometimes
without her noticing, and involve a few muscle twitches before
resolving. 

Also, patient has had difficulty sleeping for many years, and 
has
tried melatonin and Ambien. Uses Ambien and amitriptyline 
rarely,
sometimes Ambien is helpful. Also tries eating high-protein 
snack
with ___ lamotrigine, which also helps. 

The patient would like to change medications due to her prior
side effects as well as the cost of lamotrigine. 

ROS: 
Endorses mild cold (sore throat), baseline tinnitus, baseline
anosmia. 
Denies f/c, headache, lightheadedness, vertigo, vision changes,
eye pain, hearing changes, dyspnea, chest pain/tightness, 
nausea,
vomiting, diarrhea, constipation, dysuria, frequency/urgency,
muscle/bone/joint pain, numbness/tingling

 
Past Medical History:
Lyme disease (___)
Shingles
Benign liver mass s/p resection
SCC
BCC
HTN
Asthma
Epilepsy
 
Social History:
___
Family History:
There is depression in her family. No history of seizures.
Mother died when pt was ___ years old.
History of dementia on both sides of family (brother, father, 
grandparents)

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
Vitals: ___ 1021 Temp: 97.3 PO BP: 156/68 HR: 85 RR: 16 O2
sat: 100% O2 delivery: RA 

PE: 
General: Well-appearing, NAD
HEENT: MMM
CV: Warm and well-perfused
Resp: Breathing comfortably on room air

Neuro:
- MSE: Alert, grossly oriented. Able to converse and give 
history
without difficulty. Slightly tangential. No dysarthria. Normal
prosody. 
- CN: PERRL 3->2mm. EOM intact without nystagmus. Sensation
intact bilaterally. Symmetric facial muscles. Palate elevates
symmetrically. Tongue protrudes midline. Deltoid and SCM full
bilaterally. 
- Motor: Normal muscle bulk and tone. No tremors or asterixis
noted. 
   tri   bi   WE   FE   IO   IP   quad   ham   FD   FP  
L   5    5    5    5    5    5     5      5    5    5
R   5    5    5    5    5    5     5      5    5    5
- Reflexes:
    bi   tri   ___   pat   AJ
L   1            1      2
R   1            1      2
- Sensory: Intact to light touch on bilateral UE and ___. No
pronator drift. 
- Coordination: Intact FTN. 
- Gait: Normal as observed when walking from bathroom to bed.

DISCHARGE PHYSICAL EXAMINATION:
===============================

General: Well-appearing, NAD
HEENT: MMM
CV: Warm and well-perfused
Resp: Breathing comfortably on room air

Neuro:
- MSE: Alert. Able to converse without difficulty. No 
dysarthria.

- CN: PERRL 3->2mm. EOM intact without nystagmus. Sensation
intact bilaterally. Symmetric facial muscles. Palate elevates
symmetrically. Tongue protrudes midline. Deltoid and SCM full
bilaterally. 
- Motor: Normal muscle bulk and tone. No tremors or asterixis
noted. All extremities antigravity to command. No pronator 
drift.

- Sensory: Intact to light touch on bilateral UE and ___.
- Coordination: Deferred
- Gait: deferred

 
Pertinent Results:
___ 06:15AM BLOOD WBC-6.6 RBC-3.67* Hgb-11.4 Hct-34.5 
MCV-94 MCH-31.1 MCHC-33.0 RDW-12.6 RDWSD-43.9 Plt ___
___ 06:15AM BLOOD Plt ___
___ 06:15AM BLOOD Glucose-92 UreaN-11 Creat-0.7 Na-138 
K-4.4 Cl-104 HCO3-25 AnGap-9*
___ 06:15AM BLOOD Calcium-9.2 Phos-3.6 Mg-1.9
 
Brief Hospital Course:
PATIENT SUMMARY:
================
Ms. ___ is a ___ with history of focal epilepsy with impaired
awareness on lamotrigine 50mg QAM and 75mg QPM, directly 
admitted
for medication adjustment due to previous side effects and 
excessive cost of medication. 

Patient has been on lamotrigine for about ___ years, initially on 
50mg BID. Patient has a history of significant side effects on 
lamotrigine 175mg daily in ___, including headache, neck 
stiffness, ataxia, blurry vision, increased aggression, and 
depressed mood. Currently on 50mg QAM/75mg QPM without 
significant side effects. Since first seizure in ___, has had 
___ seizures/year, triggered by emotional stress, involving lip 
smacking and impaired awareness, always in the early morning. 
Last EEG was in ___, showing left temporal lobe epilepsy 
associated with lip smacking and hand automatisms. 

During this hospitalization, patient was tapered off lamotrigine 
and started on vimpat. EKG did not show changes in interval 
length. No side effects noted. Patient did have 1 electrographic 
seizure captured on EEG without clinical correlate during this 
admission which occurred at night during sleep in the middle of 
the cross titration of drugs.

TRANSITIONAL ISSUES:
====================
- continue lacosamide 100mg BID for now, uptitrate to 150 twice 
daily on ___
- follow up with outpatient neurology Dr. ___
- ambulatory EEG to be coordinated by outpatient neurologist Dr. 
___ at a later date
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Zolpidem Tartrate 2.5 mg PO QHS:PRN insomnia 
2. Albuterol Inhaler 2 PUFF IH Q6H:PRN SOB 
3. LamoTRIgine 75 mg PO BID 
4. Amitriptyline 25 mg PO DAILY:PRN insomnia 
5. budesonide-formoterol 80-4.5 mcg/actuation inhalation BID 
asthma exacerbation 
6. Denosumab (Prolia) 60 mg SC EVERY 6 MONTHS 
7. Mupirocin Ointment 2% 1 Appl TP DAILY:PRN blepharitis, 
hordeolum 
8. Fluocinolone Acetonide 0.01% Cream 1 Appl TP BID psoriasis 
9. FoLIC Acid 0.8 mg PO DAILY 
10. Triamcinolone Acetonide 0.1% Cream 1 Appl TP TID itch 
11. Calcium Soft Chew (calcium-vitamin D3-vitamin K) 500 mg oral 
DAILY 
12. vitamin B complex-folic acid 0.4 mg oral DAILY 

 
Discharge Medications:
1.  LACOSamide 100 mg PO BID  
2.  Vitamin D 1000 UNIT PO DAILY  
3.  Albuterol Inhaler 2 PUFF IH Q6H:PRN SOB  
4.  Amitriptyline 25 mg PO DAILY:PRN insomnia  
5.  budesonide-formoterol 80-4.5 mcg/actuation inhalation BID 
asthma exacerbation  
6.  Calcium Soft Chew (calcium-vitamin D3-vitamin K) 500 mg oral 
DAILY  
7.  Denosumab (Prolia) 60 mg SC EVERY 6 MONTHS  
8.  Fluocinolone Acetonide 0.01% Cream 1 Appl TP BID psoriasis  
9.  FoLIC Acid 0.8 mg PO DAILY  
10.  Mupirocin Ointment 2% 1 Appl TP DAILY:PRN blepharitis, 
hordeolum  
11.  Triamcinolone Acetonide 0.1% Cream 1 Appl TP TID itch  
12.  vitamin B complex-folic acid 0.4 mg oral DAILY  
13.  Zolpidem Tartrate 2.5 mg PO QHS:PRN insomnia  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
History of seizures
Insomnia
History of asthma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You presented to ___ for planned admission to 
taper down your home lamotrigine and start a new antiseizure 
medication.

While in the hospital, you are monitored on EEG.  Your home 
lamotrigine was weaned off, and you were started on Vimpat [also 
known as lacosamide].

After you leave the hospital, make sure you follow-up with your 
outpatient neurologist in clinic and take your medications as 
prescribed.

We wish you the best,
Your neurology team
 
Followup Instructions:
___